US04886814
N-[2-(4-Carbomethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(thiazol-4-yl)ethanamine
Prepared analogously to Example 3 by reaction of 2-(4-carbomethoxyphenyl)-1-methylethylamine with 4-bromoacetyl-thiazole, followed by reduction and purification of the base on a silica gel plate using ethyl acetate/methanol=8:2 as eluant.

reactant | 2-(4-carbomethoxyphenyl)-1-methylethylamine | C(=O)(OC)C1=CC=C(C=C1)CC(C)N | C11H15NO2
reactant | 4-bromoacetyl-thiazole | BrCC(=O)C=1N=CSC1 | C5H4BrNOS
product | N-[2-(4-Carbomethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(thiazol-4-yl)ethanamine | C(=O)(OC)C1=CC=C(C=C1)CC(C)NCC(C=1N=CSC1)O | C16H20N2O3S
